US05202441
N-Benzyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)hydroxylamine
A mixture of 2,2,6,6-tetramethylpiperidin-4-one oxime (15.0 g, 88 mmol), 40 ml of 5 N hydrochloric acid in methanol, 120 ml of methanol and 40 ml of water is subjected to 3 atmospheres of hydrogen over platinum oxide and 5% platinum on carbon for 18 hours. The reaction mixture is filtered through celite and concentrated. The crude hydroxylamine hydrochloride is added to 130 ml of N,N-dimethylformamide along with benzyl bromide (13.7 g, 80 mmol) and potassium carbonate (33.0 g, 240 mmol). The mixture is stirred for 16 hours. The mixture is then filtered and concentrated. The residue is partitioned between methylene chloride and dilute aqueous sodium carbonate. The organic layer is washed with water and brine, dried over anhydrous sodium sulfate and then concentrated to give 14.1 g of a white solid. This solid is recrystallized from ethanol to yield 6.8 g of the title compound in a 30% overall yield. The compound melts at 154° C.

reactant | 2,2,6,6-tetramethylpiperidin-4-one oxime | 88 mmol, 15.0 g | CC1(NC(CC(C1)=NO)(C)C)C | C9H18N2O
reactant | hydrochloric acid | 5 N, 40 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | benzyl bromide | 80 mmol, 13.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 240 mmol, 33.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
catalyst | platinum on carbon | [Pt] | Pt
catalyst | platinum oxide | [Pt]=O
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | N-Benzyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)hydroxylamine | 14.1 g | C(C1=CC=CC=C1)N(O)C1CC(NC(C1)(C)C)(C)C | C16H26N2O
